* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_SU
*SIMULATOR=SIMETRIX
*DATE=31/03/2017
*VERSION=1

*PIN ORDER 1:NC 2:OUT 3:NC 4:EN 5:Rext 6:GND

.SUBCKT BCR420UFD 1 2 3 4 5 6

Q1 2 8 5 BCRNPN
R1 4 8 20K TC1=0.2m
R2 5 6 95 TC1=2m
D1 8 9 BCRdiode
D2 9 6 BCRdiode

.MODEL BCRNPN NPN IS=300e-11 NF=1.2 ISE=30e-15 NE=1.2 BF=350
+ VAF=10 IKF=300m ISC=2e-13 NC=1.2 BR=15 NR=1 RE=0.01
+ RB=0.33 RC=0.01 CJE=60e-12 VJE=0.55 MJE=0.36 CJC=15e-12 VJC=0.5
+ MJC=0.35 TF=1e-9 TR=4e-9  QUASIMOD=1 RCO=1 GAMMA=1.3e-9 NK=.55
+ XTB=1.4 TRE1=0.004 TRB1=0.003 TRC1=0.004

.model BCRdiode D(IS=3f RS=.01 N=1.05 IKF=1m CJO=.5p M=0.3 VJ=0.7
+ BV=3 XTI=12.5)

.ENDS

*.SIMULATOR DEFAULT

*                (c)  2017 Diodes Inc
*
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
