***********************************************************
*
* PMEG3010ER
*
* Nexperia
*
* 1 A low VF MEGA Schottky barrier rectifier
* IFmax = 1A (average)
* VRmax = 30V
* VFmax = 360mV   @ IF = 1A
* IRmax = 1.5mA   @ VR = 30V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD123W
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1
* does not reflect physical devices 
* but improve only modeling in the 
* reverse mode of operation.
*
.SUBCKT PMEG3010ER 1 2
R1 1 2 1.015E+5 
D1 1 2 PMEG3010ER 
*
.MODEL PMEG3010ER D
+ IS = 2.464E-5 
+ N = 1.003 
+ BV = 33 
+ IBV = 0.005
+ RS = 0.02955
+ CJO = 3.288E-10 
+ VJ = 0.3778 
+ M = 0.5149 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*